US07241791B2
4-[6-hydroxy-1-(2-methoxyphenyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.041 g, 0.5 mmol) and 2-methoxyphenylhydrazine hydrochloride (0.087 g, 0.5 mmol) to give 0.010 g of product as a tan solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 0.5 mmol, 0.041 g | C(C)(=O)[O-].[Na+]
reactant | 2-methoxyphenylhydrazine hydrochloride | 0.5 mmol, 0.087 g | Cl.COC1=C(C=CC=C1)NN
product | 4-[6-hydroxy-1-(2-methoxyphenyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.010 g | OC1=CC=C2C(=NN(C2=C1)C1=C(C=CC=C1)OC)C1=C(C=C(C=C1)O)O | C20H16N2O4
